US06169088A
4-(6,7-Dimethoxy-4-quinazolinyl)-1-piperazinethiocarboxylic acid chloride
To a solution of 3.06 ml (40.1 mmol) of thiophosgene in 100 ml of dichloromethane were slowly added a solution of 10 g (36.5 mmol) of 6,7-dimethoxy-4-(1-piperazinyl)quinazoline obtained by the method described in South African Patent No. 67 06512 (1968) in 100 ml of dichloromethane and 12.4 ml (89.1 mmol) of triethylamine under ice-cooling. The resulting mixture was stirred at the same temperature in an atmosphere of argon for 2 hours. After the solvent was evaporated, the residue was purified by silica gel chromatography to give 6.65 g (52%) of the desired compound.

reactant | thiophosgene | 40.1 mmol, 3.06 ml | C(=S)(Cl)Cl | CCl2S
reactant | 6,7-dimethoxy-4-(1-piperazinyl)quinazoline | 36.5 mmol, 10 g | COC=1C=C2C(=NC=NC2=CC1OC)N1CCNCC1 | C14H18N4O2
reactant | triethylamine | 89.1 mmol, 12.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(6,7-Dimethoxy-4-quinazolinyl)-1-piperazinethiocarboxylic acid chloride | 6.65 g, 52% | COC=1C=C2C(=NC=NC2=CC1OC)N1CCN(CC1)C(=S)Cl | C15H17ClN4O2S
